* File: NOR2.pex.netlist.pex
* Created: Sun Dec  1 11:27:31 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NOR2_OUT 3 6 7 10 14 17 19 26 27 28
r51 25 26 10
r52 23 25 0.382378
r53 23 26 30
r54 17 25 1.58018
r55 17 19 1.7
r56 13 17 0.431131
r57 13 14 0.0309635
r58 10 28 10
r59 8 14 0.0309635
r60 8 10 0.481796
r61 6 14 0.0142613
r62 6 7 0.667084
r63 3 27 10
r64 1 7 0.0481557
r65 1 3 0.491587
.ends

.subckt PM_NOR2_GND! 1 6 12 18
r38 6 18 10
r39 4 12 0.00643882
r40 4 6 0.75902
r41 1 12 30
.ends

.subckt PM_NOR2_VDD! 1 6 15 20
r24 10 20 30
r25 6 10 0.367355
r26 6 20 10
r27 4 15 0.00426319
r28 4 10 0.2847
r29 1 15 30
.ends

.subckt PM_NOR2_A 4 6 10 12 14 17 23
r38 20 23 4.21922
r39 17 20 25
r40 14 17 1.7
r41 6 12 66.6116
r42 5 23 3.83544
r43 5 6 77.4744
r44 4 23 3.83544
r45 3 10 35.8678
r46 3 4 64.8694
.ends

.subckt PM_NOR2_B 4 6 10 12 15 17 23
r40 20 23 4.21922
r41 15 20 25
r42 15 17 1.7
r43 6 12 66.6116
r44 5 23 3.83544
r45 5 6 77.4744
r46 4 23 3.83544
r47 3 10 35.8678
r48 3 4 64.8694
.ends

