* File: OAI22.pex.netlist.pex
* Created: Tue Dec  3 01:32:05 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_OAI22_NET12 3 6 7 11 13 14 17 20 21 23
c66 13 0 8.56237e-20
c67 7 0 4.50891e-20
r68 17 23 10
r69 15 17 0.407065
r70 13 15 0.0479452
r71 13 14 0.775741
r72 11 21 10
r73 9 11 0.342228
r74 8 14 0.0479585
r75 8 11 0.400541
r76 6 9 0.0479585
r77 6 7 0.736071
r78 3 20 10
r79 1 7 0.0479585
r80 1 3 0.342228
.ends

.subckt PM_OAI22_GND! 1 6 12 18
c54 12 0 1.70813e-19
r55 6 18 10
r56 4 12 0.00816527
r57 4 6 0.685889
r58 1 12 30
.ends

.subckt PM_OAI22_OUT 3 9 10 13 18 21 22
c50 21 0 4.8707e-20
r51 21 22 10
r52 16 21 0.938738
r53 13 16 1.7
r54 11 16 0.505695
r55 9 11 0.0476987
r56 9 10 0.17146
r57 6 18 30
r58 3 6 0.367355
r59 3 18 10
r60 1 10 0.0475524
r61 1 3 0.366436
.ends

.subckt PM_OAI22_VDD! 1 6 12 16 25 29 32 33
c42 6 0 9.37961e-20
r43 20 33 30
r44 16 20 0.382378
r45 16 33 10
r46 14 29 0.00512096
r47 14 20 0.996095
r48 13 25 0.0418089
r49 12 29 0.0418089
r50 12 13 1.64963
r51 10 32 30
r52 6 10 0.382378
r53 6 32 10
r54 4 25 0.00512096
r55 4 10 0.996095
r56 1 25 15
.ends

.subckt PM_OAI22_B 4 6 10 12 14 17 23
c41 17 0 3.27197e-20
c42 10 0 1.54476e-19
r43 20 23 4.21922
r44 17 20 25
r45 14 17 1.7
r46 6 12 36.8926
r47 5 23 3.83544
r48 5 6 76.8595
r49 4 23 3.83544
r50 3 10 26.6446
r51 3 4 64.1521
.ends

.subckt PM_OAI22_D 4 6 10 12 14 17 23
c49 12 0 1.54476e-19
c50 10 0 3.08952e-19
r51 20 23 4.21922
r52 17 20 25
r53 14 17 1.7
r54 6 12 36.8926
r55 5 23 3.83544
r56 5 6 76.8595
r57 4 23 3.83544
r58 3 10 26.6446
r59 3 4 64.1521
.ends

.subckt PM_OAI22_C 4 6 10 12 14 17 23
c54 17 0 3.30064e-20
c55 14 0 5.26173e-20
c56 12 0 1.54476e-19
c57 10 0 3.08952e-19
r58 20 23 4.21922
r59 17 20 25
r60 14 17 1.7
r61 6 12 36.8926
r62 5 23 3.83544
r63 5 6 76.8595
r64 4 23 3.83544
r65 3 10 26.6446
r66 3 4 64.1521
.ends

.subckt PM_OAI22_A 4 6 10 12 14 22 23
c37 14 0 1.38094e-19
c38 10 0 1.54476e-19
r39 22 23 25
r40 19 22 4.18701
r41 14 23 1.7
r42 6 12 36.8926
r43 5 19 3.83544
r44 5 6 76.8595
r45 4 19 3.83544
r46 3 10 26.6446
r47 3 4 64.1521
.ends

